US07160888B2
Synthesis of 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-3-methyl-1H-[1,8]naphthyridin-2-one
To a solution of crude 4-(6-methyl-7-oxo-7,8-dihydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde (0.65 g, 2.24 mmol, 1.0 equiv) in anhydrous methanol (40 mL) cooled to 0° C. was added 2,3-dichlorophenylpiperazine (1.2 g, 4.0 mmol, 2.0 equiv). The mixture was stirred for 5 min and NaBH(OAc)3 (2.3 g, 11.2 mmol, 5.0 equiv) was added. The reaction mixture was brought to room temperature and stirred overnight. The reaction was quenched with water and was concentrated to remove methanol completely. The resultant pale green residue was dissolved in ethyl acetate and washed with 0.5 N HCl (1×10 mL), saturated NaHCO3 solution (1×10 mL) and brine. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by column chromatography (silica gel, 2% MeOH/CH2Cl2) to afford the title compound as a white foamy solid (0.2 g, 30%). MS: ES+ 461.03, 463.03 (Exact Mass: 460.14).

reactant | 4-(6-methyl-7-oxo-7,8-dihydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | 2.24 mmol, 0.65 g, 1.0 equiv | CC1=CC=2C=CC(=NC2NC1=O)OCCCC=O | C13H14N2O3
reactant | 2,3-dichlorophenylpiperazine | 4.0 mmol, 1.2 g, 2.0 equiv | ClC1=C(C=CC=C1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | NaBH(OAc)3 | 11.2 mmol, 2.3 g, 5.0 equiv | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-3-methyl-1H-[1,8]naphthyridin-2-one | 0.2 g, 30% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCOC1=CC=C2C=C(C(NC2=N1)=O)C | C23H26Cl2N4O2
